US08017637B2
57 μl (0.37 mmol; 0.48 equivalent) of N-(3-aminopropyl)-N-methylpropane-1,3-diamine is added to 150 mg (0.77 mmol) of 5-methoxy-1,3-benzothiazol-4,7-dione in solution in 6 ml of ethanol. The reaction mixture is maintained under stirring at 85° C. for 90 minutes, then the solvent is evaporated off under reduced pressure and the expected product is purified by chromatography on a silica column (eluent: dichloromethane/methanol mixture 94/6) and 95 mg (yield=26%) of 5.5′-[(methylimino)bis(propane-3,1-diylimino)]bis(1,3-benzothiazole-4,7-dione) is obtained in the form of a red powder. Melting point: 223-224° C.

reactant | N-(3-aminopropyl)-N-methylpropane-1,3-diamine | 0.37 mmol, 57 μl, 0.48 equivalent | NCCCN(CCCN)C | C7H19N3
reactant | 5-methoxy-1,3-benzothiazol-4,7-dione | 0.77 mmol, 150 mg | COC1=CC(C2=C(N=CS2)C1=O)=O | C8H5NO3S
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 5.5′-[(methylimino)bis(propane-3,1-diylimino)]bis(1,3-benzothiazole-4,7-dione) | 95 mg, yield=26% | CN(CCCNC1=CC(C2=C(N=CS2)C1=O)=O)CCCNC1=CC(C2=C(N=CS2)C1=O)=O | C21H21N5O4S2
